US04125729
Ethyl α-[p-(p-cyanophenoxy)phenyl]acetate
A mixture of 2.21 g of p-fluorobenzonitrile, 2.16 g of ethyl p-hydroxyphenylacetate and 2.07 g of K2CO3 in 20 ml of N,N-dimethylacetamide is stirred and heated at 155° C for 18 hours. The mixture is chilled and poured into 40 ml of cold saturated NaHCO3 solution. The mixture is extracted with ether and the extracts washed with cold 2N NaOH and saline. The extracts are dried (MgSO4) and concentrated under vacuum to give the product as a yellow oil.

reactant | p-fluorobenzonitrile | 2.21 g | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | ethyl p-hydroxyphenylacetate | 2.16 g | OC1=CC=C(C=C1)CC(=O)OCC | C10H12O3
reactant | K2CO3 | 2.07 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NaHCO3 | 40 ml | C(=O)(O)[O-].[Na+]
solvent | N,N-dimethylacetamide | 20 ml | CN(C(C)=O)C | C4H9NO
product | Ethyl α-[p-(p-cyanophenoxy)phenyl]acetate | C(#N)C1=CC=C(OC2=CC=C(C=C2)CC(=O)OCC)C=C1 | C17H15NO3
